US04352885
Continuous Preparation of NADPH
The gel was used to prepare a sepharose-alcohol dehydrogenase column (0.4×4.0 cm) which was then immersed in a water bath maintained at 45° C. A 0.01 M Tris-HCl solution (pH 9.0) containing 2.5 mg/ml NADP and 0.25 v/v isopropanol was applied to the column at a rate of 0.25 ml/min.; the treated solution was collected in a cooled ethanol precipitation vessel. Several milliliters of petroleum ether were added to 20 ml of the eluted solution and the precipitate was collected by centrifugation.

reactant | Tris-HCl | 0.01 M, pH 9.0 | C(C(CO)(CO)N)O.Cl
reactant | NADP | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
solvent | isopropanol | C(C)(C)O | C3H8O
product | NADPH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
